US06822100B2
Water (4 ml) and an aqueous solution of sodium hydroxide (2 ml, 10 N) were sequentially added to a flask charged with a solution of crude cis-2-[5-cyano-1-(p-toluenesulfonyl)indol-3-yl]-1-(N,N-dimethylaminomethyl)cyclo-propane dissolved in anhydrous ethanol (15 ml). The resulting mixture was heated at 70° C. for 1 h. The solvent was evaporated and the residue was taken up in brine (10 ml). The aqueous layer was extracted with 10% methanol/ethyl acetate (3×5 ml). The combined organic layers were dried over anhydrous magnesium sulfate and concentrated in vacuo. The crude material was purified by silica gel column chromatography and eluted using a step gradient of a solvent mixture [chloroform/(2 M ammonia/methanol), 90/10, 80/20]. The cis-2-[5-cyanoindol-3-yl]-1-(N,N-dimethylaminomethyl)cyclopropane was obtained as a white solid (63 mg, 75% yield over 3 steps): 1H NMR (400 MHz, CDCl3): δ 8.47 (1H, br s), 8.07 (1H, s), 7.41 (2H, apparent q, J=8.0 Hz), 7.03 (1H, s), 2.37 (1H, dd, J=12.6, 4.7 Hz), 2.18 (6H, s), 1.97 (1H, m), 1.69 (1H, dd, J=12.6, 8.6 Hz), 1.34 (1H, m), 1.22 (1H, m), 0.71 (1H, q, J=5.0 Hz); MS m/e 240 (M+H)+.

reactant | Water | 4 ml | O | H2O
reactant | sodium hydroxide | 10 N, 2 ml | [OH-].[Na+]
reactant | cis-2-[5-cyano-1-(p-toluenesulfonyl)indol-3-yl]-1-(N,N-dimethylaminomethyl)cyclo-propane | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@@H]1[C@@H](C1)CN(C)C | C22H23N3O2S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | cis-2-[5-cyanoindol-3-yl]-1-(N,N-dimethylaminomethyl)cyclopropane | 75% yield | C(#N)C=1C=C2C(=CNC2=CC1)[C@@H]1[C@@H](C1)CN(C)C | C15H17N3
